US07405231B2
1-[3-(4-{2-[2-(4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenoxy)-propyl]-1H-[1,2,3]triazole
14 mg (0.55 mmol) 95% sodium hydride were given to a solution of 110 mg (0.50 mmol) 4-(3-[1,2,3]triazol-1-yl-propoxy)-phenol in 4.0 ml DMF and stirred for 15 min. 168 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 8 ml water the resulting precipitate was collected and purified by chromatography on silica gel (eluent: ethyl acetate/n-heptane 4:1) to yield 70 mg (27%) colorless powder.

reactant | sodium hydride | 0.55 mmol, 14 mg | [H-].[Na+]
reactant | 4-(3-[1,2,3]triazol-1-yl-propoxy)-phenol | 0.50 mmol, 110 mg | N1(N=NC=C1)CCCOC1=CC=C(C=C1)O | C11H13N3O2
reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 168 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | water | 8 ml | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 1-[3-(4-{2-[2-(4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenoxy)-propyl]-1H-[1,2,3]triazole | 70 mg, 27% | FC(S(=O)C1=CC=C(C=C1)C=CC=1OC=C(N1)COC1=CC=C(OCCCN2N=NC=C2)C=C1)(F)F | C24H21F3N4O4S
